US07612114B2
Synthesized from 2-(7-methoxy-2,2-dimethylchroman-3-yl)phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl][2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine (473 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine (472 mg). This compound (470 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (200 mg).

reactant | 2-(7-methoxy-2,2-dimethylchroman-3-yl)phenylamine | COC1=CC=C2CC(C(OC2=C1)(C)C)C1=C(C=CC=C1)N | C18H21NO2
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl][2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine | 473 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC=C2)C2C(OC3=CC(=CC=C3C2)OC)(C)C)C=C1 | C33H42N2O3
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(7-methoxy-2,2-dimethylchroman-3-yl)phenyl]amine | 472 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC=C2)C2C(OC3=CC(=CC=C3C2)OC)(C)C)CC)C=C1 | C35H46N2O3
